US07592477B2
Step a) Formation of N-[2-(3,4-dichlorophenyl)ethyl]-N-[4-(3-octyl-1,2,4-oxadiazol-5-yl)benzyl]amine
The same procedure as employed in the preparation of Example 357 (step a) but using 4-(3-octyl-1,2,4-oxadiazol-5-yl)benzaldehyde and 2-(3,4-dichlorophenyl)ethylamine gave the title compound as an oil.

reactant | 4-(3-octyl-1,2,4-oxadiazol-5-yl)benzaldehyde | C(CCCCCCC)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C17H22N2O2
reactant | 2-(3,4-dichlorophenyl)ethylamine | ClC=1C=C(C=CC1Cl)CCN | C8H9Cl2N
product | N-[2-(3,4-dichlorophenyl)ethyl]-N-[4-(3-octyl-1,2,4-oxadiazol-5-yl)benzyl]amine | ClC=1C=C(C=CC1Cl)CCNCC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCC | C25H31Cl2N3O
